US04235996
1-Chloro-9,10-dihydro-9,10-anthracenedicarboxaldehyde
To a solution of 0.54 g. of cis-1-chloro-9,10-dihydro-9,10-ethanoanthracene-11,12-diol in 5 ml. of acetic acid at 35° C. is added 1.0 g. of lead tetraacetate, portionwise. The mixture is stirred for 10 minutes, cooled in an ice-water bath and the crystals which form are collected by filtration and washed with cold acetic acid, giving the desired product as colorless crystals, m.p. 144°-146° C.

reactant | cis-1-chloro-9,10-dihydro-9,10-ethanoanthracene-11,12-diol | ClC1=CC=CC=2[C@H]3C4=CC=CC=C4[C@@H](C12)C(C3O)O | C16H13ClO2
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-Chloro-9,10-dihydro-9,10-anthracenedicarboxaldehyde | ClC1=CC=CC=2C(C3=CC=CC=C3C(C12)C=O)C=O | C16H11ClO2
